US07037938B2
To a solution of 4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl trifluoromethanesulfonate (300 mg) in 1,2-dimethoxyethane (5 ml) was added [3-fluoro-4-(methoxycarbonyl)phenyl]boronic acid (125 mg), tetrakis(triphenylphosphine)palladium (53 mg) and aqueous solution of sodium carbonate (2M, 0.6 ml), and the mixture was stirred at 80° C. for 2 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-3-fluoro-1,1′-biphenyl-4-carboxylate (230 mg).

reactant | 4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl trifluoromethanesulfonate | 300 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)CCN(C[C@H](O)C1=CC(=CC=C1)Cl)C(=O)OC(C)(C)C)(F)F | C22H25ClF3NO6S
reactant | [3-fluoro-4-(methoxycarbonyl)phenyl]boronic acid | 125 mg | FC=1C=C(C=CC1C(=O)OC)B(O)O | C8H8BFO4
reactant | sodium carbonate | 2M, 0.6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-3-fluoro-1,1′-biphenyl-4-carboxylate | 230 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)F)C[C@H](O)C1=CC(=CC=C1)Cl | C29H31ClFNO5
